US06958350B2
a) N-[1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-2-hydrazinocarbonyl-acetamide
A solution of 1-(3,4-dichlorobenzyl)-piperidin-4-ylamine (2.5 g) and triethylamine (1.50 ml) in dichloromethane (100 ml) stirring at ambient temperature was treated with ethylmalonyl chloride (1.35 ml). After stirring for 16 hours, the reaction mixture was washed with brine, the organic layer was dried (MgSO4), and evaporated to leave a white solid. This solid was suspended in ethanol (100 ml), treated with hydrazine hydrate (5 ml) and the resulting mixture was stirred at reflux for 16 hours and then allowed to cool. Water (100 ml) was added to the reaction mixture and the ethanol was evaporated. The residue was then extracted with dichloromethane (3×100 ml), the combined organics were dried (MgSO4), evaporated. The resultant solid was triturated with diethyl ether to give the subtitle compound as a white solid. (2.27 g)

reactant | 1-(3,4-dichlorobenzyl)-piperidin-4-ylamine | 2.5 g | ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl | C12H16Cl2N2
reactant | triethylamine | 1.50 ml | C(C)N(CC)CC | C6H15N
reactant | ethylmalonyl chloride | 1.35 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | Water | 100 ml | O | H2O
product | N-[1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-2-hydrazinocarbonyl-acetamide | ClC=1C=C(CN2CCC(CC2)NC(CC(=O)NN)=O)C=CC1Cl | C15H20Cl2N4O2
